Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:14].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.57671876072
[C:1][C:2]([H:3])([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:8][H:9].[C:6]([H:7])=[C:10]([H:11])[H:12],2.11389813372
[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.6448889140600005
[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([H:7])[O:8][C:9][H:10]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9][H:10],-3.72517408944
[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.39147432513
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],0.83673005232
[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][H:7],-2.11516875076
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][H:5]>>[O:1][C@:2]([H:3])([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.65844596156
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:4]([O:5][H:6])[C:7]#[C:10][H:11].[H:1][C:2](=[C:3]([H:8])[H:12])[H:9],-1.29635237114
[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:6])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]#[C:5][C:7]([H:8])([H:9])[H:10],7.364752501880001
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8]>>[C:1][C:2][O:3].[C:4][C:5]([H:6])([H:7])[H:8],1.49311959456
[C:1]#[C:2][C:3]([H:4])[O:5][C:6][H:7]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6][H:7],7.651778640960001
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:14]([O:13][C:10]([H:11])[H:12])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]1([H:15])[H:16],-2.51508528
[H:7].[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],-4.3815134243500005
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.70763271276
[C:10]([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],-2.20373878015
[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.81274294464
[H:1].[O:2][C@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.62746711858
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])[H:12],4.61690244614
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][H:8].[H:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:7]([H:8])[H:9],-2.56967299931
[C:1][C:2][O:3].[C:4](=[O:5])[H:6]>>[C:1]#[C:2][O:3][C:4](=[O:5])[H:6],-1.2104676013299998
[C:3](#[C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.24218024167
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],3.88316854387
[C:4]#[C:5][H:6].[H:1][C:2]([C:3][C:9]([H:10])([H:11])[O:12][H:13])([H:7])[H:8]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-6.635186259659999
[C:4][O:5][H:6].[H:1][O:2]/[C:3]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.28377959439
[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.6926255059699993
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]1[C:2][C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.4889743664599995
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.02708554539
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1][C:2]#[C:3][H:4],4.02913581583
